US08431596B2
1-(6-Bromo-pyridin-2-yl)-3-carboethoxy-thiourea
To a solution of 2-amino-6-bromopyridine (25 g, 144.5 mmol) in dichloromethane (25 mL) cooled to 5° C. was added ethoxycarbonyl isothiocyanate (17.1 mL, 144.5 mmol) dropwise over 15 min. The reaction mixture was then allowed to warm to room temperature at which it was stirred for 16 h. Evaporation in vacuo gave a yellow solid, which was collected by filtration and thoroughly washed with cyclohexane. No further purification was required. Yield: 41.5 g, 94%; LCMS method: 1, RT: 5.66 min, MI: 304-306 [M+1].

reactant | 2-amino-6-bromopyridine | 144.5 mmol, 25 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | ethoxycarbonyl isothiocyanate | 144.5 mmol, 17.1 mL | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-(6-Bromo-pyridin-2-yl)-3-carboethoxy-thiourea | BrC1=CC=CC(=N1)NC(=S)NC(=O)OCC | C9H10BrN3O2S
